US08022062B2
3-(t-Butoxycarbonyl)-7-chloro-6-(thiazol-5-ylmethyl-amino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 3-(t-butoxycarbonyl)-7-chloro-6-(thiazol-5-ylmethyleneamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (228 mg, 0.58 mmol) in methanol (10 mL), add sodium borohydride (263 mg, 7 mmol) and reflux for 28 h. Cool to ambient temperature, dilute with EtOAc and add slowly water. Separate the organic layer, extract the aqueous layer three times with EtOAc. Combine the organic extracts, dry over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with EtOAc/hexane (1:3) to give the desired intermediate as a colorless oil (134 mg, 58%). MS (ES+) m/z: 394 (M+H)+.

reactant | 3-(t-butoxycarbonyl)-7-chloro-6-(thiazol-5-ylmethyleneamino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.58 mmol, 228 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)N=CC2=CN=CS2 | C19H22ClN3O2S
reactant | sodium borohydride | 7 mmol, 263 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(t-Butoxycarbonyl)-7-chloro-6-(thiazol-5-ylmethyl-amino)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 134 mg, 58% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)NCC2=CN=CS2 | C19H24ClN3O2S
